US08053457B2
(4-Benzyl-4-hydroxy-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Benzyl-4-hydroxy-piperidine (commercially available from ABCR GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=231.2: AtRet=1.81.

reactant | 4-Benzyl-4-hydroxy-piperidine | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Benzyl-4-hydroxy-piperidin-1-yl)-acetonitrile | C(C1=CC=CC=C1)C1(CCN(CC1)CC#N)O | C14H18N2O
